US04540654
2 g of the 7-acetyl-1-benzyl-2,6-dimethylpyrazolo[1,5-b]-1,2,4-triazole thus-obtained was dissolved in 20 ml of ethanol, to the solution was added 20 ml of concentrated hydrochloric acid and the mixture was refluxed by heating. After about 6 hours, the ethanol was distilled off under reduced pressure, the reaction mixture was rendered alkaline with a saturated aqueous solution of sodium hydrogencarbonate and extracted with ethyl acetate to obtain 1.6 g (95% yield) of almost pure deacetylated compound, i.e., 1-benzyl-2,6-dimethylpyrazolo[1,5-b]-1,2,4-triazole.

reactant | 7-acetyl-1-benzyl-2,6-dimethylpyrazolo[1,5-b]-1,2,4-triazole | 2 g | C(C)(=O)C=1C(=NN2N=C(N(C21)CC2=CC=CC=C2)C)C | C15H16N4O
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-benzyl-2,6-dimethylpyrazolo[1,5-b]-1,2,4-triazole | 95% yield | C(C1=CC=CC=C1)N1C=2N(N=C1C)N=C(C2)C | C13H14N4
